US07709509B2
3.2 g 4-Butyl-5-chloromethyl-2-(4-trifluoromethyl-phenyl)-thiazole and 1.5 g 2-Chloro-4-hydroxybenzaldehyde were dissolved in 150 ml dimethylformamide. 4.7 g cesiumcarbonate were added and the reaction mixture stirred at room temperature for four hours. The reaction mixture was then diluted by adding 300 ml ethyl acetate and washed three times with 50 ml water, saturated NaHCO3 solution and brine. The organic layer was dried over MgSO4 and the solvent removed in vacuo to provide 3.0 g 4-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-chloro-benzaldehyde as oil.

reactant | 4-Butyl-5-chloromethyl-2-(4-trifluoromethyl-phenyl)-thiazole | 3.2 g | C(CCC)C=1N=C(SC1CCl)C1=CC=C(C=C1)C(F)(F)F | C15H15ClF3NS
reactant | 2-Chloro-4-hydroxybenzaldehyde | 1.5 g | ClC1=C(C=O)C=CC(=C1)O | C7H5ClO2
reactant | cesiumcarbonate | 4.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 4-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-chloro-benzaldehyde | 3.0 g | C(CCC)C=1N=C(SC1COC1=CC(=C(C=O)C=C1)Cl)C1=CC=C(C=C1)C(F)(F)F | C22H19ClF3NO2S
